US07186749B2
Step 7: 3-Phenyl-2-{[6-(5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}propanoic acid.
A mixture of methyl 3-phenyl-2-{[6-(5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}propanoate (0.25 g, 0.56 mmol), prepared in the previous step, and 1N NaOH (1.1 mL, 1.1 mmol) in THF (25 mL) was stirred under nitrogen at ambient temperature overnight. By TLC analysis, starting material was still present. The mixture was heated to 60° C. for two hours, at which time no starting material remained. The mixture was cooled to ambient temperature, acidified with 1N HCl (2 mL) and the volatiles were removed under reduced pressure (without the application of heat). The residue was slurried with water, the solids filtered and washed with water. The solids were dissolved in methylene chloride, the solution dried (MgSO4), filtered and the solvent removed under reduced pressure to give the title compound as an off-white solid (0.22 g, 90%), mp 176–178° C. Elemental Analysis for C29H23NO3 Calc'd: C, 80.35; H, 5.35; N, 3.23. Found: C, 79.19; H, 5.31; N, 2.97.

reactant | methyl 3-phenyl-2-{[6-(5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}propanoate | 0.56 mmol, 0.25 g | C1(=CC=CC=C1)CC(C(=O)OC)OC1=CC2=CC=C(C=C2C=C1)C=1NC(=CC1)C1=CC=CC=C1 | C30H25NO3
reactant | NaOH | 1.1 mmol, 1N, 1.1 mL | [OH-].[Na+]
reactant | HCl | 1N, 2 mL | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-Phenyl-2-{[6-(5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}propanoic acid | 0.22 g, 90% | C1(=CC=CC=C1)CC(C(=O)O)OC1=CC2=CC=C(C=C2C=C1)C=1NC(=CC1)C1=CC=CC=C1 | C29H23NO3
